US04436726
Starting from 2-hexadecanoyloxyhexadecanoic acid (200 mg) prepared by the method described in Preparation 7 and N-β-alanyl-L-threonine (190 mg), N-[N-(2-hexadecanoyloxyhexadecanoyl)-β-alanyl]-L-threonine (230 mg) was obtained as crystals according to a similar manner to that of Example 6.

reactant | 2-hexadecanoyloxyhexadecanoic acid | 200 mg | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)O)CCCCCCCCCCCCCC | C32H62O4
reactant | N-β-alanyl-L-threonine | 190 mg | NCCC(=O)N[C@@H]([C@H](O)C)C(=O)O | C7H14N2O4
product | N-[N-(2-hexadecanoyloxyhexadecanoyl)-β-alanyl]-L-threonine | 230 mg | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)NCCC(=O)N[C@@H]([C@H](O)C)C(=O)O)CCCCCCCCCCCCCC | C39H74N2O7
